US04051248
D. 8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride (1:1)
8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (1.2g) in absolute ethanol (100 ml) is treated with 1.2 equivalents of ethereal hydrogen chloride. Cooling gives the crude hydrochloride salt which is crystallized from absolute ethanol to yield 1.1g of the title compound, melting point 264°-266° C.

reactant | 8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 1.2g | C1C(=CC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | C23H25N3O
reactant | hydrogen chloride | 1.2 equivalents | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 8-(1H-Inden-2-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one, hydrochloride | 1.1g | Cl.C1C(=CC2=CC=CC=C12)CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1 | InChI=1S/C23H25N3O.ClH/c27-22-23(26(17-24-22)21-8-2-1-3-9-21)10-12-25(13-11-23)16-18-14-19-6-4-5-7-20(19)15-18;/h1-9,14H,10-13,15-17H2,(H,24,27);1H
